US04251543
A mixture of 21.0 g of 1-chloro-1-(p-prenylphenyl)ethane, 11.3 g of sodium cyanide and 140 ml of dimethylsufoxide was stirred at 60°-65° C. for 7 hours. After cooling, 400 g of ice-water was added and the resulting solution was extracted with n-hexane. The extract was washed with water, concentrated and distilled to give 16.4 g of 2-(p-prenylphenyl)propionitrile, b.p. 108-110 °C/0.28 mmHg.

reactant | 1-chloro-1-(p-prenylphenyl)ethane | 21.0 g | ClC(C)C1=CC=C(C=C1)CC=C(C)C | C13H17Cl
reactant | sodium cyanide | 11.3 g | [C-]#N.[Na+]
product | 2-(p-prenylphenyl)propionitrile | 16.4 g | C(C=C(C)C)C1=CC=C(C=C1)C(C#N)C | C14H17N
